US07034165B2
5-Benzyloxy-2,2-dimethyl-3(S)-hydroxy-pentane-nitrile
4.8 g (17.5 mmol) of 5-benzyloxy-2,2-dimethyl-3(S)-acetoxy-pentane-nitrile from the second fraction is dissolved in 50 ml of methanol and mixed with 1.4 g (35 mmol) of NaOH. It is stirred for 3 hours at 25° C., added to 200 ml of water, extracted with 2×200 ml of MTB ether, dried on sodium sulfate and concentrated by evaporation.

reactant | 5-benzyloxy-2,2-dimethyl-3(S)-acetoxy-pentane-nitrile | 17.5 mmol, 4.8 g | C(C1=CC=CC=C1)OCC[C@@H](C(C#N)(C)C)OC(C)=O | C16H21NO3
reactant | NaOH | 35 mmol, 1.4 g | [OH-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 5-Benzyloxy-2,2-dimethyl-3(S)-hydroxy-pentane-nitrile | C(C1=CC=CC=C1)OCC[C@@H](C(C#N)(C)C)O | C14H19NO2
